US04588433
A solution of 47.5 g (0.3 mol) of chloromethyl phenyl sulphide in 50 ml of dimethylformamide was added dropwise to a solution of 40 g (0.34 mol) of sodium phenolate in 200 ml of dimethylformamide at room temperature in the course of 30 minutes, while stirring. The temperature of the reaction mixture thereby rose from 24° C. to 35° C. The mixture was subsequently stirred at room temperature for 14 hours and then concentrated by stripping off the solvent under reduced pressure. The oil which remained was washed successively with water, 0.1N aqueous sodium hydroxide solution and water and, after drying sodium sulphate, subjected to fractional vacuum distillation. 50 g (77.2% of theory) of phenoxy-phenylthiomethane were obtained in this manner in the form of a colourless liquid of boiling point 112°-117° C./0.16 mm Hg.

reactant | chloromethyl phenyl sulphide | 0.3 mol, 47.5 g | C1(=CC=CC=C1)SCCl | C7H7ClS
reactant | sodium phenolate | 0.34 mol, 40 g | C1(=CC=CC=C1)[O-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | phenoxy-phenylthiomethane | 50 g, 77.2% | O(C1=CC=CC=C1)CSC1=CC=CC=C1 | C13H12OS
